US08685969B2
2. N-(3-Bromo-2-methylphenyl)-2-(bromomethyl)-5-fluorobenzamide
A solution of crude 2-(bromomethyl)-5-fluorobenzoic acid (3.05 g, 13.1 mmol) in CH2Cl2 (50 mL) was treated with oxalyl chloride (1.66 g, 13.1 mmol) and 6 drops of DMF. The mixture was stirred at room temperature for 1 h, and then was concentrated. The residue was dissolved in CH2Cl2 (50 mL) and treated with 3-bromo-2-methylaniline (1.705 g, 9.16 mmol). The mixture was stirred at room temperature for 1 h, and then TEA (2.19 mL, 15.7 mmol) was added in portions. The mixture was stirred at room temperature for 2 h, then was diluted with CH2Cl2 (100 mL), washed with NaHCO3 (aq) and water, dried and concentrated. The residue was triturated with CH2Cl2 to provide the desired product as a white solid (0.9 g). The mother liquor was concentrated and the residue was again triturated with CH2Cl2 to provide additional desired product as a white solid (0.46 g). The mother liquor was concentrated and the residue was purified by column chromatography on silica gel, eluting with EtOAc-hexane (gradient from 0:100 to 30:70) to provide additional desired product as a pink solid (1.18 g) for a total of 2.54 g (48% yield). LCMS (M+H)+ m/z 400, 402, 404.

reactant | 2-(bromomethyl)-5-fluorobenzoic acid | 13.1 mmol, 3.05 g | BrCC1=C(C(=O)O)C=C(C=C1)F | C8H6BrFO2
reactant | oxalyl chloride | 13.1 mmol, 1.66 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-bromo-2-methylaniline | 9.16 mmol, 1.705 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 6 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Bromo-2-methylphenyl)-2-(bromomethyl)-5-fluorobenzamide | 0.9 g, 48% yield | BrC=1C(=C(C=CC1)NC(C1=C(C=CC(=C1)F)CBr)=O)C | C15H12Br2FNO
